US05554620
To a solution of 2,6-di(tetrahydro-2H-2-pyranyloxymethyl)-phenyl bromide (15.5 g, 39 mmol) in ether at -30° C. was added n-BuLi (2.5M, 16.4 ml, 41 mmol) and the mixture was allowed to warm to room temperature and stirred for 1.5 hours. The mixture was cooled to 0° C., and TMEDA (4.56 g, 37 mmol) was added, and the resulting mixture was cooled to -50° C. After stirring for 20 minutes, 2-pyridylcarboxaldehyde (6.31 g, 58 mmol) was added. The above mixture was warmed to room temperature over a period of 2 hours, quenched with saturated sodium bicarbonate, and diluted with ethyl acetate with stirring. The organic layer was washed with brine and concentrated in vacuo to afford 11.7 g (73%) of 1-(2-pyridyl)-1-[2,6-di(tetrahydro-2H-2-pyranyloxymethyl)phenyl]-methanol as an oil.

reactant | 2,6-di(tetrahydro-2H-2-pyranyloxymethyl)-phenyl bromide | 39 mmol, 15.5 g | O1C(CCCC1)OCC1=C(C(=CC=C1)COC1OCCCC1)Br | C18H25BrO4
reactant | n-BuLi | 41 mmol, 2.5M, 16.4 ml | [Li]CCCC
reactant | TMEDA | 37 mmol, 4.56 g | CN(C)CCN(C)C | C6H16N2
reactant | 2-pyridylcarboxaldehyde | 58 mmol, 6.31 g | C1=CC=NC(=C1)C=O | C6H5NO
solvent | ether | CCOCC | C4H10O
product | 1-(2-pyridyl)-1-[2,6-di(tetrahydro-2H-2-pyranyloxymethyl)phenyl]-methanol | 11.7 g, 73% | N1=C(C=CC=C1)C(O)C1=C(C=CC=C1COC1OCCCC1)COC1OCCCC1 | C24H31NO5
